US07713969B2
(±)-Trans-3-(5,6-Dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-1-hydroxymethyl-4-(1H-indol-3-yl)-pyrrolidine-2,5-dione (0.06 g) in anhydrous tetrahydrofuran (5 ml) was treated with dibenzylphosphoramidate (0.156 ml, 3.5 equivalents) followed by the addition of tetrazole (3% solution in acetonitrile, 2 ml). The reaction mixture was stirred at room temperature for 20 min and cooled to −78° C. A solution of m-chloroperbenzoic acid (70%, 0.162 g) in dichloromethane (2 ml) was added at −78° C. After 5 min at −78° C., the reaction was brought to room temperature and stirred for 5 min. Solvents were removed under reduced pressure and the residue was purified by flash chromatography on a silica column, eluted with ethyl acetate, hexane to give phosphoric acid dibenzyl ester trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)-2,5-dioxo-pyrrolidin-1-ylmethyl ester as a solid (70 mg). 1H NMR (DMSO-d6) 400 MHz δ: 11.10 (s, 1H), 7.32-7.39 (m, 12H), 6.84-7.24 (m, 2H), 5.49 (brs, 2H), 5.03 (m, 4H), 4.61(dd, 2H), 4.06 (brs, 2H), 2.87(brs, 2H), 2.07(brs, 2H).

reactant | (±)-Trans-3-(5,6-Dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-1-hydroxymethyl-4-(1H-indol-3-yl)-pyrrolidine-2,5-dione | 0.06 g | C1(=CN2CCCC3=CC=CC1=C23)[C@@H]2C(N(C([C@H]2C2=CNC3=CC=CC=C23)=O)CO)=O | C24H21N3O3
reactant | dibenzylphosphoramidate | 0.156 ml, 3.5 equivalents | C(C1=CC=CC=C1)OP(OCC1=CC=CC=C1)(=O)N | C14H16NO3P
reactant | tetrazole | 2 ml | N1N=NN=C1 | CH2N4
reactant | m-chloroperbenzoic acid | 0.162 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | phosphoric acid dibenzyl ester trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)-2,5-dioxo-pyrrolidin-1-ylmethyl ester | 70 mg | C1(=CN2CCCC3=CC=CC1=C23)[C@@H]2C(N(C([C@H]2C2=CNC3=CC=CC=C23)=O)COP(OCC2=CC=CC=C2)(OCC2=CC=CC=C2)=O)=O | C38H34N3O6P
